US03974283
In 20 ml. of anhydrous tetrahydrofuran there is dissolved 5.0 grams of 4-t-butyl-1,2,3,6-tetrahydropyridine. Stirring is initiated and there is added 3.14 grams of ethylisothiocyanate in 10 ml. of anhydrous tetrahydrofuran allowing the reaction to run at room temperature. After stirring the reaction mixture for 18 hours, the tetrahydrofuran is evaporated in vacuo to give N-ethyl-4-t-butyl-1,2,3,6-tetrahydro-1-pyridinethiocarboxamide.

reactant | 4-t-butyl-1,2,3,6-tetrahydropyridine | 5.0 grams | C(C)(C)(C)C=1CCNCC1 | C9H17N
reactant | ethylisothiocyanate | 3.14 grams | C(C)N=C=S | C3H5NS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-ethyl-4-t-butyl-1,2,3,6-tetrahydro-1-pyridinethiocarboxamide | C(C)NC(=S)N1CCC(=CC1)C(C)(C)C | C12H22N2S
